US04786644
To a stirred slurry of 1.14 g of sodium hydride (as a 50% oil dispersion) in 100 ml of benzene was added 2.25 g of 2-aminopyridine. After stirring at room temperature for 15 minutes the slurry was treated with a solution of 2.25 g of 4-hydroxy-1-phenyl-3-isoquinolinecarboxylic acid, ethyl ester in 50 ml of benzene. After refluxing for one hour, the reaction mixture was cooled to room temperature, quenched with water, and extracted with three 100 ml aliquots of hot tetrahydrofuran. The organic layer was dried over magnesium sulfate, filtered, and evaporated to yield 1.7 g (65%) of 4-hydroxy-1-phenyl-N-(2-pyridyl)-3-isoquinolinecarboxamide. Recrystallization from dichloromethane afforded the analytical sample, m.p. 228°-230° C.

reactant | sodium hydride | 1.14 g | [H-].[Na+]
reactant | 2-aminopyridine | 2.25 g | NC1=NC=CC=C1 | C5H6N2
reactant | 4-hydroxy-1-phenyl-3-isoquinolinecarboxylic acid, ethyl ester | 2.25 g | OC1=C(N=C(C2=CC=CC=C12)C1=CC=CC=C1)C(=O)OCC | C18H15NO3
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | 4-hydroxy-1-phenyl-N-(2-pyridyl)-3-isoquinolinecarboxamide | 1.7 g, 65% | OC1=C(N=C(C2=CC=CC=C12)C1=CC=CC=C1)C(=O)NC1=NC=CC=C1 | C21H15N3O2
